US06150379
A mixture comprising 6-fluoro-N-hydroxy-2-pyridin-2-yl-1H-benzimidazole-5-carboxamidine trifluoroacetate (108 mg, 0.4 mmol), Zn (55 mg, 1.2 mmol) and acetic acid (5 mL) was heated at reflux under nitrogen for 2 hours. The mixture was filtered and concentrated to dryness. The residue was taken up and purified by preparative reverse phase HPLC. The combined pure fractions were lyophilized to provide 6-fluoro-2-pyridin-2-yl-1H-benzimidazole-5-carboxamidine; MS (ESI), Calculated for C13H10FN5 : 255.09, Found (MH+): 255.9; 1H-NMR (300 Mhz, DMSO-d6): 7.64-7.69 (m, 2H), 7.97 (d, 1H), 8.08 (m, 1H), 8.42 (d, 1H), 8.78 (d, 1H), 8.48 (d, 4H).

reactant | 6-fluoro-N-hydroxy-2-pyridin-2-yl-1H-benzimidazole-5-carboxamidine trifluoroacetate | 0.4 mmol, 108 mg | FC(C(=O)O)(F)F.FC=1C(=CC2=C(NC(=N2)C2=NC=CC=C2)C1)C(=N)NO
catalyst | Zn | 1.2 mmol, 55 mg | [Zn] | Zn
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 6-fluoro-2-pyridin-2-yl-1H-benzimidazole-5-carboxamidine | FC=1C(=CC2=C(NC(=N2)C2=NC=CC=C2)C1)C(=N)N | C13H10FN5
